US06777395B2
3,5-Bis-O-(2,4-dichlorophenylmethyl)-1-O-methyl-α-D-ribofuranose
A mixture of 2-O-acetyl-3,5-bis-O-(2,4-dichlorophenylmethyl)-1-O-methyl-α-D-ribofuranose [for preparation, see: Helv. Chim. Acta 78:486 (1995)] (52.4 g, 0.10 mol) in methanolic K2CO3 (500 mL, saturated at room temperature) was stirred at room temperature for 45 min. and then concentrated under reduced pressure. The oily residue was suspended in CH2Cl2 (500 mL), washed with water (300 mL+5×200 mL) and brine (200 mL), dried (Na2SO4), filtered, and concentrated to give the title compound (49.0 g) as colorless oil, which was used without further purification in Step B below.

reactant | 2-O-acetyl-3,5-bis-O-(2,4-dichlorophenylmethyl)-1-O-methyl-α-D-ribofuranose | 0.10 mol, 52.4 g | C(C)(=O)O[C@H]1[C@@H](OC)O[C@@H]([C@H]1OCC1=C(C=C(C=C1)Cl)Cl)COCC1=C(C=C(C=C1)Cl)Cl | C22H22Cl4O6
solvent | K2CO3 | 500 mL | C(=O)([O-])[O-].[K+].[K+]
product | 3,5-Bis-O-(2,4-dichlorophenylmethyl)-1-O-methyl-α-D-ribofuranose | 49.0 g | ClC1=C(C=CC(=C1)Cl)CO[C@H]1[C@H]([C@@H](OC)O[C@@H]1COCC1=C(C=C(C=C1)Cl)Cl)O | C20H20Cl4O5
